US08470878B2
(S)-2-((benzyloxy)methyl)oxirane
A slurry of NaH (267 g) and NaI (26.5 g) in DMF (3000 mL) was cooled to between −15° C. and −10° C. with ice-brine mixture. A solution of glycidol (480 g) in DMF (1000 mL) was added with stirring for 10 minutes. BnCl (745.5 g) in DMF (800 mL) was added (slightly exothermic) and the reaction was warmed to room temperature followed by stirring for approximately 16 hours. The solution was stirred for a further time period until HPLC analysis showed less than 1% of BnCl remained. The reaction was cooled to −5° C. and water (4 L) was added. MBTE (5 L) was added with stirring for 30 minutes. The organic and aqueous layers were separated and two additions of MBTE (5 L; 3.5 L) were used to extract the aqueous layer. The combined organic layer was washed with brine (1.8 L (×2)) and dried over Na2SO4 for 1 hour. The organic layer was concentrated to dryness, distilled under vacuum (5 mm Hg, 85° C.) to give the product as a yellow liquid (760 g). 1H NMR (CDCl3, 400 MHz): δ 7.27-7.37 (m, 5H), 4.51 (s, 2H), 3.74 (dd, 1H), 3.29 (dd, 1H), 3.14 (m, 1H), 2.72 (dd, 1H), 2.55 (dd, 1H).

reactant | NaH | 267 g | [H-].[Na+]
reactant | glycidol | 480 g | C1C(O1)CO | C3H6O2
reactant | BnCl | 745.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 4 L | O | H2O
solvent | DMF | 3000 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
catalyst | NaI | 26.5 g | [Na+].[I-]
product | (S)-2-((benzyloxy)methyl)oxirane | 760 g | C(C1=CC=CC=C1)OC[C@H]1OC1 | C10H12O2
